US04052412
4-(9,10-dihydro-4-oxo-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-2-yl)-4-oxo butyric acid methyl ester
A solution of 6.3 cc of succinic acid monomethyl ester chloride in 100 cc of anhydrous carbon disulphide is added dropwise at 0° to a suspension of 10.0 g of 9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one and 30.0 g of anhydrous aluminium chloride in 200 cc of anhydrous carbon disulphide, the reaction mixture is stirred for a further 6 hours at room temperature, 23.3 g of tin tetrachloride are added dropwise thereto at 20° to 25° and stirring is continued at room temperature for 15 hours. The reaction mixture is subsequently heated to 50° for 2 hours, cooled, poured on 500 cc of 5 N hydrochloric acid and extracted with chloroform. The organic phases are washed with 5 N hydrochloric acid and with water, dried over magnesium sulphate and concentrated by evaporation. The evaporation residue is dissolved in 300 cc of methylene chloride, filtered through silica gel and evaporated to dryness. The title compound crystallizes from benzene/petroleum ether and is recrystallized once from ether. M.P. 97°-98°.

reactant | succinic acid monomethyl ester chloride | 6.3 cc | [Cl-].COC(CCC(=O)O)=O
reactant | 9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one | 10.0 g | S1C2=C(C=C1)C(C1=C(CC2)C=CC=C1)=O | C13H10OS
reactant | aluminium chloride | 30.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | tin tetrachloride | 23.3 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | hydrochloric acid | 5 N, 500 cc | Cl | ClH
solvent | carbon disulphide | 100 cc | C(=S)=S | CS2
solvent | carbon disulphide | 200 cc | C(=S)=S | CS2
product | 4-(9,10-dihydro-4-oxo-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-2-yl)-4-oxo butyric acid methyl ester | COC(CCC(=O)C1=CC2=C(S1)CCC1=C(C2=O)C=CC=C1)=O | C18H16O4S
